US08207216B2
(6-Acetoxymethyl-benzofuran-3-yl)-acetic acid ethyl ester (0.80 g, 2.90 mmol) was added to liquid ammonia at −78° C., the reaction flask was sealed and heated at 60° C. for 6 days. The reaction mixture was cooled, the excess of ammonia was allowed to evaporate and the residue was washed with in hexane and precipitated to give the 2-(6-hydroxymethyl-benzofuran-3-yl)-acetamide as an off white solid (0.54 g, 90%). 1H NMR (DMSO-d6, 400 MHz) 3.46 (s, 2H), 4.60 (d, J=5.6 Hz, 1H), 5.25 (t, J=5.6 Hz, 1H), 6.98 (brs, 1H), 7.20 (d, J=8.0 Hz, 1H), 7.47 (s, 1H), 7.53 (brs, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.77 (s, 1H), 13C NMR (DMSO-d6, 400 MHz) 30.8, 63.4, 109.4, 115.4, 120.0, 121.6, 127.0, 139.9, 143.4, 155.2, 171.7.

reactant | (6-Acetoxymethyl-benzofuran-3-yl)-acetic acid ethyl ester | 2.90 mmol, 0.80 g | C(C)OC(CC1=COC2=C1C=CC(=C2)COC(C)=O)=O | C15H16O5
reactant | ammonia | N | H3N
product | 2-(6-hydroxymethyl-benzofuran-3-yl)-acetamide | OCC1=CC2=C(C(=CO2)CC(=O)N)C=C1 | C11H11NO3
